US07109354B2
b) 4-Trifluoromethanesulfonylamino-butyryl chloride
4-Trifluoromethanesulfonylamino-butyric acid methyl ester (0.42 g, 1.77 mmol) [example 212, step a] was taken up in methanol [2 mL] and 1N NaOH was added [2.66 mL] and stirred for 2 hours. 1N HCl was added and the product was extracted with ethyl acetate, dried with magnesium sulfate and evaporated. The crude product (0.13 g, 0.57 mmol) was dissolved in dichloromethane/DMF [1 mL/1 drop] and thionyl chloride (0.08 mL, 1.14 was added. The reaction was stirred at room temperature for 2 hours and then evaporated and used directly in the next step.

reactant | 4-Trifluoromethanesulfonylamino-butyric acid methyl ester | 1.77 mmol, 0.42 g | COC(CCCNS(=O)(=O)C(F)(F)F)=O | C6H10F3NO4S
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | methanol | 2 mL | CO | CH4O
catalyst | dichloromethane DMF | 1 mL | ClCCl.CN(C)C=O
product | 4-Trifluoromethanesulfonylamino-butyryl chloride | FC(S(=O)(=O)NCCCC(=O)Cl)(F)F | C5H7ClF3NO3S
